US07446102B2
Benzyl[(2S)-2-[(tert-butoxycarbonyl)amino]-3-({2-[(tert-butoxycarbonyl)amino]ethyl}amino)-3-oxopropyl]carbamate
Under argon, 0.50 g (0.96 mmol) of 3-{[(benzyloxy)carbonyl]amino}-N-(tert-butoxycarbonyl)-L-alanine-N-cyclohexylcyclohexanamine (1:1) and 0.154 g (0.96 mmol) of tert-butyl(2-aminoethyl)carbamate are dissolved in 10 ml of dimethylformamide and 0.5 ml of triethylamine. Then, at 0° C. (ice bath), 0.314 g (1.64 mmol) of EDC and 0.043 g (0.32 mmol) of HOBt are added. The mixture is slowly warmed to RT and stirred at RT for 12 h. The solution is concentrated in vacuo and the residue is taken up with ethyl acetate. The organic phase is washed successively with saturated sodium bicarbonate and sodium chloride solutions, dried over magnesium sulfate and evaporated in vacuo. The remaining solid is dried to constant weight under high vacuum.

reactant | 3-{[(benzyloxy)carbonyl]amino}-N-(tert-butoxycarbonyl)-L-alanine N-cyclohexylcyclohexanamine | 0.96 mmol, 0.50 g | C(C1=CC=CC=C1)OC(=O)NC[C@H](NC(=O)OC(C)(C)C)C(=O)O.C1(CCCCC1)NC1CCCCC1
reactant | tert-butyl(2-aminoethyl)carbamate | 0.96 mmol, 0.154 g | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | EDC | 1.64 mmol, 0.314 g
reactant | HOBt | 0.32 mmol, 0.043 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | Benzyl[(2S)-2-[(tert-butoxycarbonyl)amino]-3-({2-[(tert-butoxycarbonyl)amino]ethyl}amino)-3-oxopropyl]carbamate | C(C1=CC=CC=C1)OC(NC[C@@H](C(=O)NCCNC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C23H36N4O7
